US20010006969A1
To 278 mg (1.45 mmol) of 6-nitroquinazoline-2,4(1H,3H)-dione were added 0.71 ml of 1,3-dimethyl-2-imidazolidinone and 5.48 g (35.76 mmol) of phosphorus oxychloride, and the resulting mixture was subjected to heating under reflux for 3 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 3 ml of acetonitrile, followed by addition of 2.81 ml (20.07 mmol) of triethylamine and 281 mg (2.61 mmol) of 1-methyl-2-propenylamine hydrochloride and stirring under ice cooling for 2 hours. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off to give 2-chloro-4-(1-methyl-2-propenylamino)-6-nitroquinazoline. After 1.00 ml (10.12 mmol) of n-butylamine was added thereto and then the mixture was stirred at room temperature for 3 hours, water was added to the reaction solution, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 73 mg (17.3%) of the title compound.

reactant | 6-nitroquinazoline-2,4(1H,3H)-dione | 1.45 mmol, 278 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | 1,3-dimethyl-2-imidazolidinone | 0.71 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | phosphorus oxychloride | 35.76 mmol, 5.48 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 20.07 mmol, 2.81 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-propenylamine hydrochloride | 2.61 mmol, 281 mg | Cl.CC(C=C)N
solvent | water | O | H2O
product | 2-chloro-4-(1-methyl-2-propenylamino)-6-nitroquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)NC(C=C)C)[N+](=O)[O-] | C12H11ClN4O2
